US07232821B2
a) 3-[2-(2-Methoxy-phenyl)-cyclopent-1-enyl]-benzoic acid ethyl ester
A mixture of 2-methoxyphenylboronic acid (510 mg, 3.36 mmol), 3-(2-bromo-cyclopent-1-enyl)-benzoic acid ethyl ester (840 mg, 2.85 mmol), potassium carbonate (3.18 g, 23.04 mmol) and tetrakis(triphenylphosphine)palladium(0) (370 mg, 0.32 mmol) was stirred and heated in 1:1 toluene/ethanol (30 ml) at 90° C. under nitrogen for 4 hours. After cooling the mixture was diluted with diethyl ether/water and the organic phase dried (MgSO4), evaporated to dryness and the residue purified on Biotage using ethyl acetate/iso-hexane (1:19) to yield the title compound as a colourless gum. (615 mg, 67%).

reactant | 2-methoxyphenylboronic acid | 3.36 mmol, 510 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | 3-(2-bromo-cyclopent-1-enyl)-benzoic acid ethyl ester | 2.85 mmol, 840 mg | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)Br)=O | C14H15BrO2
reactant | potassium carbonate | 23.04 mmol, 3.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 30 ml | C1(=CC=CC=C1)C.C(C)O
solvent | diethyl ether water | C(C)OCC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.32 mmol, 370 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2-(2-Methoxy-phenyl)-cyclopent-1-enyl]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC=C1)OC)=O | C21H22O3
